US04785017
A mixture of 263 mg of racemic-6-acetyl-3,4-dihydro-7-hydroxy-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester, 222 mg of anhydrous potassium carbonate, 0.39 ml of 1,3-dibromopropane, 6 ml of anhydrous acetone, and 3 ml of anhydrous N,N-dimethylformamide was stirred and refluxed for 16 hours. An additional 0.25 g of anhydrous potassium carbonate was added and stirring, and refluxing were continued for 25 hours. The mixture was cooled and volatile materials were removed first under water aspirator pressure and then high vacuum. The residue was treated with ether and acetone and the solids were removed by filtration. Concentration of the filtrate in vacuo afforded 359 mg of racemic-6-acetyl-7-(3-bromopropoxy)-3,4-dihydro-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester as an orange oil.

reactant | racemic-6-acetyl-3,4-dihydro-7-hydroxy-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester | 263 mg | C(C)OC(CCC1(OC2=C(CC1)C=C(C(=C2CCC)O)C(C)=O)C)=O | C20H28O5
reactant | potassium carbonate | 222 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.39 ml | BrCCCBr | C3H6Br2
reactant | acetone | 6 ml | CC(=O)C | C3H6O
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | racemic-6-acetyl-7-(3-bromopropoxy)-3,4-dihydro-2-methyl-8-n-propyl-2H-1-benzopyran-2-propanoic acid ethyl ester | 359 mg | C(C)OC(CCC1(OC2=C(CC1)C=C(C(=C2CCC)OCCCBr)C(C)=O)C)=O | C23H33BrO5
